***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD13381F4
* Date: 09/24/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS448 - JULY 2013
* Model Version: Final 2.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
* Final 2.00 - 12/20/13
* Updated model
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
*$
**********************************************************************
*                                                                    *
*   n17381 (typ)  -  PSpice Model                                    *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD13381F4	1	2	3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidth  0.1217021277
.PARAM  pLen    0.5u
.PARAM  perim   {2.1*pWidth}
.PARAM  ptrc1   2.125e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2   6.25e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1    10 11 12 12  NMOS	W={pWidth} L={pLen} PS={perim} PD={perim}
DBD   3  1	 DBD {1/14}
CBD0  3  1   10e-12
RBD0  3  1   9e9
*CGD0  2  13	 50E-12
*RGD   13 1   2e6
CGS0  2  3	 6e-12
DDG   10 14	 DD
DGD   11 14	 DD
RGG1   2  101	 5.00
RGG2	101	11	20
cgg2	101	11	1e-8
RSB   12 9	 RTEMP 78.12275e-3
RSS   9  3 	 RTEMP 0.12275e-3
RDD   1  10  45.22750e-3
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version= 3.2  
+ TNOM   = 27            LINT   = 0.050e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 1.9855e17       NSUB   = 1.0e16
+ AGS    = 0.0           PVAG   = 0.0           U0     = 670
+ A0     = 1.0           A1     = 0.0           A2     = 1.0
+ UA     = 2.25e-9       UB     = 5.87e-19      VBM    = -10
+ UA1    = 3.00e-9       UB1    = -7.61e-18     UTE    = -1.50
+ KT1    = -0.55         KT2    = 0.022         KT1L   = 1.0e-15
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.080         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.40          PDIBLC2= 0.0086        NLX    = 1.75e-7
+ PSCBE1 = 4.24e8        PSCBE2 = 1e-5          PCLM   = 1.75
+ VOFF   = -0.4         NFACTOR= 1.4           JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.01
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 700.00e-12    CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.30         IS     = 5e-16
+ TOX    = 1.75e-8       gamma  = 10.0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=1.275e-9 VJ=0.70 M=0.35 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=-1.0 BV=13 IS=7.5e-10 N=1.150 RS=4.0e-3 TRS1=5.2e-3
+ ISR=1e-11 NR=2.0)
.param abc 3.2e-11
.MODEL DD  D (CJO={abc } VJ=0.90 M=0.90 IS=1e-12 RS=1 TNOM=27)
.MODEL DDx D (CJO={abc /10} VJ=1.0 M=0.9 IS=1e-13 RS=1.0 TNOM=27)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD13381F4
*$
**********************************************************************
